US06306887B1
G. Methyl-2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoic acid
A mixture of 4-methyl-2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoic acid benzyl ester (4.0 g) and palladium hydroxide on carbon (1.0 g) in 200 ml of MeOH and 200 ml of THF was shaken on a Parr apparatus under 30 p.s.i. of H2. After 2 h the mixture was filtered through celite and the filtrate was concentrated under reduced pressure to give 3.6 g of the title compound as a white solid. MS [M+1]+ 398.3; 1H nmr (400 MHz, DMSO-d6) δ0.79 (d, J=6.4 Hz, 3H), 0.86 (d, J=6.4 Hz, 3H), 1.44-1.63 (m, 3H), 2.21 (s, 3H), 3.36-3.40 (m, 2H), 4.15-4.20 (m, 1H), 6.91 (t, 1H), 7.09-7.14 (m, 4H), 7.33 (d, 2H), 7.81 (d, 1H), 7.89 (s, 1H), 8.26 (d, 1H), 8.97 (s, 1H).

reactant | 4-methyl-2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoic acid benzyl ester | 4.0 g | C(C1=CC=CC=C1)OC(C(CC(C)C)NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)=O | C29H33N3O4
reactant | THF | 200 ml | C1CCOC1 | C4H8O
solvent | MeOH | 200 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 1.0 g | [OH-].[OH-].[Pd+2]
product | Methyl-2-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-pentanoic acid | 3.6 g | CC(C(=O)O)(CCC)NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O | C22H27N3O4
